US06048885
Dichloroethane (5 ml), thionyl chloride (0.65 g, 5.5 mmol) and N,N-dimethylformamide (0.05 ml) were added to 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetic acid (1.57 g, 5 mmol), and the mixture was stirred under reflux for 2 hours. After completion of the reaction, the mixture was concentrated under reduced pressure, pyridine (3 ml) and 1-hydroxyimino-1-propylamine (0.88 g, 10 mmol) were added to the residue, and the mixture was stirred under reflux for 0.5 hours. After completion of the reaction, ether (150 ml) was added, and the mixture was washed with 1N hydrochloric acid (150 ml) twice. The ether layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure, and the residue was purified by silica gel chromatography (ethyl acetate/n-hexane) and recrystallized from ethyl acetate/n-hexane to give 2-(2,5-dimethylphenoxymethyl)phenyl 3-ethyl-1,2,4-oxadiazol-5-yl ketone O-methyloxime (0.63 g, 34.5%) as colorless crystals.

reactant | Dichloroethane | 5 ml | ClC(C)Cl | C2H4Cl2
reactant | thionyl chloride | 5.5 mmol, 0.65 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminophenylacetic acid | 5 mmol, 1.57 g | CC1=C(OCC2=C(C=CC=C2)C(C(=O)O)=NOC)C=C(C=C1)C | C18H19NO4
reactant | 1-hydroxyimino-1-propylamine | 10 mmol, 0.88 g | ON=C(CC)N | C3H8N2O
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 0.05 ml | CN(C=O)C | C3H7NO
product | 2-(2,5-dimethylphenoxymethyl)phenyl 3-ethyl-1,2,4-oxadiazol-5-yl ketone O-methyloxime | 0.63 g, 34.5% | CON=C(C1=C(C=CC=C1)COC1=C(C=CC(=C1)C)C)C1=NC(=NO1)CC | C21H23N3O3
